US05633248
1-Benzoyl-2-(2-phenylethyl)-2-piperidinecarbonitrile
To 200 ml of a solution of lithium diisopropylamide (140 mmol) in tetrahydrofuran was added 15 g of solid 1-benzoyl-2-piperidinecarbonitrile at -78° C. and the mixture was stirred for 30 minutes. Then, 100 ml of a solution of 33.2 g of phenethyl iodide in tetrahydrofuran was added dropwise at -78° C. After completion of dropwise addition, the temperature of the reaction mixture was gradually increased to 0° C. The reaction mixture was diluted with water and the organic layer was separated. The aqueous layer was further extracted with ethyl acetate. The pooled organic layer was dried over magnesium sulfate and filtered and the solvent was distilled off. The group was purified by silica gel column chromatography using ethyl acetate-hexane (1:2) as the eluent. The active fraction was concentrated under reduced pressure and the solid group was recrystallized from ethyl acetate-hexane to provide 17.3 g of colorless crystals.

reactant | lithium diisopropylamide | 140 mmol | C(C)(C)[N-]C(C)C.[Li+]
reactant | 1-benzoyl-2-piperidinecarbonitrile | C(C1=CC=CC=C1)(=O)N1C(CCCC1)C#N | C13H14N2O
reactant | phenethyl iodide | 33.2 g | C(CC1=CC=CC=C1)I | C8H9I
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 1-Benzoyl-2-(2-phenylethyl)-2-piperidinecarbonitrile | 17.3 g | C(C1=CC=CC=C1)(=O)N1C(CCCC1)(C#N)CCC1=CC=CC=C1 | C21H22N2O
